US06878728B1
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-{4-[2-(1,3-thiazolidin-3-yl)ethoxy]benzyl}propylcarbamate (324)
A mixture of 2-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)ethyl 4-methylbenzenesulfonate (50 mg, 0.06 mmol), thiazolidine (0.02 mL, 0.02 g, 0.25 mmol) and dimethylsulfoxide (1 mL) was heated to 70° C. under nitrogen atmosphere for 2 h. The mixture was diluted with water and extracted with ethyl ether (2×). The organic phase was dried (sodium sulfate), evaporated, and the residue was purified by chromatography (silica gel, dichloromethane/methanol, 98:2) to provide the title compound (25 mg) as a solid foam. 1H NMR (DMSO-d6): δ 0.78 (3H, d), 0.82 (3H, d), 1.2 (1H, dd), 1.4 (1H, quintuplet), 1.9-2.0 (1H, m), 2.3 (1H, dd), 2.6-2.8 (7H, m), 2.8-3.0 (5H, m), 3.4-3.6 (4H, m), 3.7 (1H, t), 3.8 (1H, dd), 4.0 (2H, br s), 4.05 (2H, br s), 4.8 (1H, dt), 5.0 (1H, d), 5.5 (1H, d), 6.18 (2H, s), 6.8 (2H, d), 7.0-7.1 (3H, d), 7.18 (1H, d), 7.2 (1H, s), 7.3 (1H, d); MS: 708 (MH+)

reactant | 2-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)ethyl 4-methylbenzenesulfonate | 0.06 mmol, 50 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCOC1=CC=C(C=C1)C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C1=CC2=C(OCO2)C=C1)O)NC(=O)O[C@H]1CO[C@H]2OCC[C@H]21 | C37H46N2O13S2
reactant | thiazolidine | 0.25 mmol, 0.02 mL, 0.02 g | S1CNCC1 | C3H7NS
reactant | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-{4-[2-(1,3-thiazolidin-3-yl)ethoxy]benzyl}propylcarbamate | 25 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCCN2CSCC2)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C33H45N3O10S2
